US04801698
The method of this invention comprises the steps of a) reacting 6-cyanopurine with bis(trimethylsilyl)trifluoroacetamide in acetonitrile under reflux and thereafter with tetra-O-acetyl-β-D-ribofuranose in the presence of trimethylsilyltrifluoromethanesulfonate to stereospecifically produce 9-(tri-O-acetyl-β-D-ribofuranosyl)-6-cyanopurine in high yield; b) reacting said 9-(tri-O-acetyl-β-D-ribofuranosyl)-6-cyanopurine with methanolic ammonia in a sealed pressure vessel at ambient temperature to produce N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine; c) reacting said N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine with phosphoryl chloride in trimethylphosphate at a temperature below about 10° C. to produce N4 -5-O-phosphono-β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine or, alternatively reacting said N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine with acetic anhydride in the presence of an acid scavenger to produce N4 -(2,3,5-tri-O-acetyl-β-D-ribofuranoxyl)pyrimido[4,5-d]pyrimidine-4,8-diamine.

reactant | N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)NC1=NC=NC=2N(CN=CC21)N | C11H16N6O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | trimethylphosphate | COP(=O)(OC)OC | C3H9O4P
product | pyrimido[4,5-d]pyrimidine-4,8-diamine | N1=CN=C(C2=C1N(CN=C2)N)N | C6H8N6
